US07087626B2
(4-Fluoronaphthalen-1-yl)acetonitrile
A solution of 1-chloromethyl-4-fluoronaphthalene (5.45 g, 5.66 mmol), sodium cyanide (333 mg, 6.79 mmol), and water (2 mL) in N,N-dimethylformamide (30 mL) is stirred for 8 h, then heated at 70° C. for 15 h. The mixture is cooled to room temperature and partitioned between saturated sodium bicarbonate solution and ethyl acetate. The organic portion is washed with three portions of water, one portion of brine, dried (sodium sulfate), filtered and evaporated. The residue is chromatographed on SiO2 (30% ethyl acetate/hexane) to yield the title compound, 4.67 g (90%), as a light brown solid. 1H NMR (CDCl3): δ 8.19 (d, J=8 Hz, 1H), 7.87 (d, J=8 Hz, 1H), 7.68 (ddd, J=8, 7, 1 Hz, 1H), 7.63 (ddd, J=8, 7, 1 Hz, 1H), 7.51 (dd, J=8, 5 Hz, 1H), 7.14 (dd, J=10, 8 Hz, 1H), 4.09 (s, 2H).

reactant | 1-chloromethyl-4-fluoronaphthalene | 5.66 mmol, 5.45 g | ClCC1=CC=C(C2=CC=CC=C12)F | C11H8ClF
reactant | sodium cyanide | 6.79 mmol, 333 mg | [C-]#N.[Na+]
reactant | water | 2 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (4-Fluoronaphthalen-1-yl)acetonitrile | FC1=CC=C(C2=CC=CC=C12)CC#N | C12H8FN
